US06207686B1
To a dry ice-acetone bath cooled 1.45M solution of lithium diisopropylamide in a mixture of tetrahydrofuran and n-hexane (1.4 ml) was added methyl (2-benzyloxyphenyl)acetate (256 mg). The mixture was stirred for 30 minutes at the same temperature and then for 30 minutes at 0° C. After cooling the solution to −78° C. chlorotrimethylsilane (0.3 ml) was added and the mixture was allowed to warm to room temperature. The solution was diluted with n-hexane (50 ml), filtered through celite, and concentrated under reduced pressure to afford 2-(2-benzyloxyphenyl)-1-methoxy-1-trimethylsilyloxyethylene. To an ice bath cooled solution of (2S)-3-methyl-2-(p-tolylsulfonylamino)butanol (288 mg) in dichloromethane (10 ml) was added a 1M solution of borane-tetrahydrofuran complex in tetrahydrofuran (1.0 ml) and the mixture was stirred for 30 minutes at ambient temperature. After cooling the solution to −78° C., cyclohexanecarbaldehyde (112 mg) and a solution of 2-(2-benzyloxyphenyl)-1-methoxy-1-trimethylsilyloxyethylene prepared above in dichloromethane (1 ml) were added. The solution was stirred for one hour at −78° C. and then quenched by an aqueous solution of sodium bicarbonate at 0° C. The mixture was extracted with diethyl ether, dried and evaporated in vacuo. The residue was dissolved in a mixture of tetrahydrofuran (4 ml) and aqueous 1M solution of hydrochloric acid (2 ml), and the resulting solution was allowed to stand for 30 minutes. Aqueous solution of sodium bicarbonate was added thereto and the mixture was extracted with ether. The organic layer was dried and evaporated. Preparative thin layer chromatography [silica gel, ether - hexane (1:4)] afforded methyl (2R,3R)-2-(2-benzyloxyphenyl)-3-cyclohexyl-3-hydroxypropionate (187 mg). High pressure liquid chromatography analysis (Daicel AD column eluting with 20% isopropyl alcohol - hexane) indicated an enantiomeric excess of 95% (Rt: major 10.51 minutes, minor 8.60 minutes).

reactant | (2S)-3-methyl-2-(p-tolylsulfonylamino)butanol | 288 mg | CC([C@@H](CO)NS(=O)(=O)C1=CC=C(C=C1)C)C | C12H19NO3S
reactant | cyclohexanecarbaldehyde | 112 mg | C1(CCCCC1)C=O | C7H12O
reactant | 2-(2-benzyloxyphenyl)-1-methoxy-1-trimethylsilyloxyethylene | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=C(O[Si](C)(C)C)OC | C19H24O3Si
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | methyl (2R,3R)-2-(2-benzyloxyphenyl)-3-cyclohexyl-3-hydroxypropionate | 187 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)[C@@H](C(=O)OC)[C@H](O)C1CCCCC1 | C23H28O4
